US06831080B2
Step C: Preparation of (S)-1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethylamine Hydrochloric acid Salt
The solution of (S)-{1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (2.62 g, 8.19 mmol), and hydrochloric acid (1.0M solution in diethyl ether) (12.3 ml, 3eq) in methanol (25 ml) was stirred at room temperature overnight. Concentrated under vacuum and 2.43 g of hydrochloric acid salt of (S)-1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethylamine was obtained as yellow solid (quantitative yield).

reactant | (S)-{1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 8.19 mmol, 2.62 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)N1CC(OCC1)C)=O | C18H28N2O3
reactant | hydrochloric acid | 1.0M, 12.3 ml, 3eq | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | (S)-1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethylamine Hydrochloric acid Salt | quantitative yield | Cl.CC1CN(CCO1)C=1C=C(C=CC1)[C@H](C)N | InChI=1S/C13H20N2O.ClH/c1-10-9-15(6-7-16-10)13-5-3-4-12(8-13)11(2)14;/h3-5,8,10-11H,6-7,9,14H2,1-2H3;1H/t10?,11-;/m0./s1
